US08912329B2
1-(2-(Pyridin-2-yl)ethyl)pyrrolidin-2-one is prepared from 2-pyrrolidone and 2-bromo-ethylbenzene in N,N-dimethylformamide in the presence of sodium hydride (according to M. Matsukawa et al., NeuroToxicology 2004, 25, 293-302).

reactant | 2-pyrrolidone | N1C(CCC1)=O | C4H7NO
reactant | 2-bromo-ethylbenzene | BrCCC1=CC=CC=C1 | C8H9Br
reactant | sodium hydride | [H-].[Na+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(2-(Pyridin-2-yl)ethyl)pyrrolidin-2-one | N1=C(C=CC=C1)CCN1C(CCC1)=O | C11H14N2O
